US09302996B2
In trifluoroacetic acid (5 mL) and water (0.5 mL) was dissolved tert-butyl 2,2-dimethyl-3-[2-methyl-4-[5-[4-(trifluoromethyl)-1-(2-trimethylsilylethoxymethyl)-imidazol-2-yl]-2-pyridyl]phenoxy]propanoate (103 mg), and the mixture was stirred at room temperature overnight. The residue obtained by concentrating the reaction mixture under reduced pressure was dissolved in tetrahydrofuran, and 1N aqueous sodium hydroxide solution was added to the mixture to adjust a pH thereof to 7. To the mixture were added 0.1N phosphate buffer, ethyl acetate and water, and the liquids were separated. The organic layer was separated, dried over anhydrous sodium sulfate, and ether was added to the residue obtained by concentrating the solution under reduced pressure to pulverize the precipitates to obtain 2,2-dimethyl-3-[2-methyl-4-[5-[5-(trifluoromethyl)-1H-imidazol-2-yl]-2-pyridyl]phenoxy]propanoic acid (59.1 mg).

reactant | tert-butyl 2,2-dimethyl-3-[2-methyl-4-[5-[4-(trifluoromethyl)-1-(2-trimethylsilylethoxymethyl)-imidazol-2-yl]-2-pyridyl]phenoxy]propanoate | 103 mg | CC(C(=O)OC(C)(C)C)(COC1=C(C=C(C=C1)C1=NC=C(C=C1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C)C | C31H42F3N3O4Si
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 0.5 mL | O | H2O
product | 2,2-dimethyl-3-[2-methyl-4-[5-[5-(trifluoromethyl)-1H-imidazol-2-yl]-2-pyridyl]phenoxy]propanoic acid | 59.1 mg | CC(C(=O)O)(COC1=C(C=C(C=C1)C1=NC=C(C=C1)C=1NC(=CN1)C(F)(F)F)C)C | C21H20F3N3O3
